US06310099B1
N,N-Dimethyl-5-methyl-2-iodophenylacetamide (3.5 g, 11.5 mmol) and 2,4-dichloro-6-methylaniline (4.1 g, 23 mmol) are stirred in xylenes (100 ml) with copper powder (0.18 g, 2.9 mmol), copper(I) iodide (0.55 g, 2.9 mmol) and anhydrous potassium carbonate (1.6 g, 11.5 mmol). The reaction is heated to reflux temperature for 48 hours. While still slightly warm (40°) the brown suspension is filtered through a pad of Celite, which in turn is rinsed with toluene (75 ml). The filtrate is evaporated on a rotovap and flash chromatographed on silica gel (Rf 0.30 in 40% EtOAc/hexane) to give N,N-dimethyl-5-methyl-2-(2′,4′-dichloro-6′-methylanilino)phenylacetamide as an off-white crystalline solid, m.p. 119-124°.

reactant | N,N-Dimethyl-5-methyl-2-iodophenylacetamide | 11.5 mmol, 3.5 g | CN(C(CC1=C(C=CC(=C1)C)I)=O)C | C11H14INO
reactant | 2,4-dichloro-6-methylaniline | 23 mmol, 4.1 g | ClC1=C(N)C(=CC(=C1)Cl)C | C7H7Cl2N
reactant | potassium carbonate | 11.5 mmol, 1.6 g | C([O-])([O-])=O.[K+].[K+]
catalyst | copper | 2.9 mmol, 0.18 g | [Cu] | Cu
catalyst | copper(I) iodide | 2.9 mmol, 0.55 g | [Cu]I
product | N,N-dimethyl-5-methyl-2-(2′,4′-dichloro-6′-methylanilino)phenylacetamide | CN(C(CC1=C(C=CC(=C1)C)NC1=C(C=C(C=C1C)Cl)Cl)=O)C | C18H20Cl2N2O
